US04370497
Tellurium tetrachloride (11.36 g, 0.042 mol) and methyl phenoxy acetate (21.00 g, 0.127 mol) were refluxed in carbon tetrachloride (175 ml) for 18 h. The reaction solution was filtered while still hot, the filtrate cooled in an ice bath and the resulting solid filtered to afford p-methoxycarbonylmethoxyphenyltellurium trichloride (16.11 g, 96%) δ(CDCl3 /DMSO d6) 8.38 (2H,d,9Hz), 6.90 (2H,d,9 Hz), 4.67 (2H,s), and 3.77 (3H,s). No attempt was made to purify this compound and it was used directly in the next step.

reactant | Tellurium tetrachloride | 0.042 mol, 11.36 g | [Te](Cl)(Cl)(Cl)Cl | Cl4Te
reactant | methyl phenoxy acetate | 0.127 mol, 21.00 g | COC(=O)COC1=CC=CC=C1 | C9H10O3
solvent | carbon tetrachloride | 175 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-methoxycarbonylmethoxyphenyltellurium trichloride | 16.11 g, 96% | COC(=O)COC1=CC=C(C=C1)[Te](Cl)(Cl)Cl | C9H9Cl3O3Te
